US06908935B2
Step 2) 5-Acetylquinoline:
A degassed solution of 5-trifluoromethanesulphonyloxyquinoline (0.41 g, 1.47 mmol), butyl vinyl ether (0.38 mL, 2.94 mmol), palladium acetate (10 mg, 0.043 mmol), potassium carbonate (0.24 g, 1.76 mmol), 1,3-bis(diphenylphosphino)propane (40 mg, 0.097 mmol) in DMF (3.67 mL) and water (0.88 mL) was heated in a sealed tube at 100° C. for 16 hours. The reaction mixture was then cooled and treated with 1M HCl and the mixture stirred for 30 minutes, then basified and extracted with dichloromethane. The organic layer was then evaporated under reduced pressure to afford the title compound.

reactant | 5-trifluoromethanesulphonyloxyquinoline | 1.47 mmol, 0.41 g | FC(S(=O)(=O)OC1=C2C=CC=NC2=CC=C1)(F)F | C10H6F3NO3S
reactant | butyl vinyl ether | 2.94 mmol, 0.38 mL | C(=C)OCCCC | C6H12O
reactant | potassium carbonate | 1.76 mmol, 0.24 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,3-bis(diphenylphosphino)propane | 0.097 mmol, 40 mg | C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C27H26P2
reactant | HCl | 1M | Cl | ClH
solvent | DMF | 3.67 mL | CN(C)C=O | C3H7NO
solvent | water | 0.88 mL | O | H2O
catalyst | palladium acetate | 0.043 mmol, 10 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-Acetylquinoline | C(C)(=O)C1=C2C=CC=NC2=CC=C1 | C11H9NO
